US05466704
A. 1-(4-Methylphenyl)-1H-indole-2-carboxylic acid, ethyl ester
2-Carboethoxy-indole (100 mg, 0.528 mmol, 1.0 eq.) was combined with 4-bromotoluene (0.16 ml, 1.32 mmol, 2.5 eq.) and copper(I) oxide (75.6 mg, 0.528 mmol, 1.0 eq.) in pyridine (0.53 ml, 1M) and heated at 120° C. for 2 hours. The reaction was then cooled to room temperature, diluted with ethyl acetate and filtered through celite. The filtrate was washed twice with water, twice with 1N hydrochloric acid and once with aqueous saturated sodium hydrogen carbonate, filtered through magnesium sulfate and concentrated. The residue was chromatographed on silica gel, eluting with chloroform:hexane (1:2) to give the title A compound (147.6 mg).

reactant | 2-Carboethoxy-indole | 0.528 mmol, 100 mg, 1.0 eq. | C(=O)(OCC)C=1NC2=CC=CC=C2C1 | C11H11NO2
reactant | 4-bromotoluene | 1.32 mmol, 0.16 ml, 2.5 eq. | BrC1=CC=C(C=C1)C | C7H7Br
solvent | pyridine | 1M, 0.53 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) oxide | 0.528 mmol, 75.6 mg, 1.0 eq. | [Cu-]=O
product | 1-(4-Methylphenyl)-1H-indole-2-carboxylic acid, ethyl ester | 147.6 mg | CC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C(=O)OCC | C18H17NO2
